US05455351
B. 4-(Chloromethyl)-2-isopropylthiazole Hydrochloride
A mixture of 94.0 g (0.91 mol) of 2-methylpropane-thioamide, 115.7 g (0.91 mol) of 1,3-dichloroacetone, and 109.7 g (0.91 mol) of MgSO4 in 1.6 liters of acetone was heated at reflux for 3.5 h. The resulting mixture was allowed to cool, filtered, and the solvent was removed in vacuo to provide the crude desired compound as a yellow oil. 1H NMR (DMSO-d6) d 1.32 (d, J=7 Hz, 6H), 3.27 (heptet, J=7 Hz, 1H), 4.78 (s, 2H), 7.61 (s, 1H). Mass spectrum: (M+H)+ =176.

reactant | 2-methylpropane-thioamide | 0.91 mol, 94.0 g | CC(C(N)=S)C | C4H9NS
reactant | 1,3-dichloroacetone | 0.91 mol, 115.7 g | ClCC(=O)CCl | C3H4Cl2O
reactant | MgSO4 | 0.91 mol, 109.7 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 1.6 liters | CC(=O)C | C3H6O
product | 4-(Chloromethyl)-2-isopropylthiazole Hydrochloride | Cl.ClCC=1N=C(SC1)C(C)C | InChI=1S/C7H10ClNS.ClH/c1-5(2)7-9-6(3-8)4-10-7;/h4-5H,3H2,1-2H3;1H
